data/polar.json
{"reaction_name": "Hetaryne generation", "rsmi": "[n:6]1[c:1]([Cl:7])[c:2]([H:8])[cH:3][cH:4][cH:5]1.[NH2-:9]>>[N:6]1=[CH:5][CH:4]=[CH:3][C:2]#[C:1]1.[Cl-:7].[NH2:9][H:8]", "epd": [["Sigma-/Pi+", [2, 8], [1, 2]], ["Sigma-/LP+", [1, 7], [7]], ["LP-/Sigma+", [9], [8, 9]]]}
{"reaction_name": "Scholl-type electrophilic arylation", "rsmi": "[c:1]1([H:13])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[c+:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[c:1]1([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:13]", "epd": [["Sigma-/Sigma+", [1, 13], [1, 7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:9]1[cH:7][c:12]([N+:21](=[O:6])[O-:26])[cH:22][c:8]2[c:38]1[n:18][o:33][n+:40]2[O-:3])[O-:17].[N:4]1([c:10]2[c:34]([CH3:13])[cH:29][c:23]([CH3:19])[cH:32][c:37]2[CH3:16])[CH:28]=[CH:27][N:5]([c:11]2[c:35]([CH3:14])[cH:30][c:24]([CH3:20])[cH:31][c:36]2[CH3:15])[C:39]1=[CH2:25]>>[N+:1](=[O:2])([C:9]1=[CH:7][C:12](=[N+:21]([O-:6])[O-:26])[CH:22]([CH2:25][c:39]2[n+:4](-[c:10]3[c:34]([CH3:13])[cH:29][c:23]([CH3:19])[cH:32][c:37]3[CH3:16])[cH:28][cH:27][n:5]2-[c:11]2[c:35]([CH3:14])[cH:30][c:24]([CH3:20])[cH:31][c:36]2[CH3:15])[c:8]2[c:38]1[n:18][o:33][n+:40]2[O-:3])[O-:17]", "epd": [["LP-/Pi+", [4], [39, 4]], ["Pi-/Sigma+", [25, 39], [25, 22]], ["Pi-/Pi+", [22, 12], [12, 21]], ["Pi-/LP+", [21, 6], [6]]]}
{"reaction_name": "Carbonate formation", "rsmi": "[CH3:1][O:2][C:6](=[O:4])[Cl:7].[O-:3][CH3:5]>>[CH3:1][O:2][C:6]([O:3][CH3:5])=[O:4].[Cl-:7]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Pi-/LP+", [4, 6], [4]], ["LP-/Pi+", [4], [4, 6]], ["Sigma-/LP+", [6, 7], [7]]]}
{"reaction_name": "tert-Butyl ether formation", "rsmi": "[Cl:1][C:2]([CH3:3])([CH3:4])[CH3:5].[O:6]([CH3:7])[H:8]>>[C:2]([CH3:3])([CH3:4])([CH3:5])[O:6][CH3:7].[Cl:1][H:8]", "epd": [["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [6], [2, 6]], ["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [6, 8], [6]]]}
{"reaction_name": "Petasis borono-Mannich reaction", "rsmi": "[CH3:1][C:2]([H:15])=[O:3].[CH3:4][N:5]([H:16])[H:17].[cH:6]1[cH:7][cH:8][cH:9][cH:10][c:11]1[B:12]([O:13][H:18])[O:14][H:19]>>[CH3:1][C:2]([H:15])([N:5]([H:16])[CH3:4])[c:11]1[cH:10][cH:9][cH:8][cH:7][cH:6]1.[B:12]([O:13][H:18])([O:14][H:19])[O:3][H:17]", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 17]], ["Sigma-/LP+", [5, 17], [5]], ["Sigma-/Sigma+", [11, 12], [2, 11]], ["Sigma-/Sigma+", [2, 3], [3, 12]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:5][cH:14][c:9]([N+:7](=[CH2:8])[CH3:17])[cH:15][cH:6]1.[n:2]1([CH3:16])[c:3]([CH3:12])[cH:10][cH:11][c:4]1[CH3:13]>>[cH:1]1[cH:5][cH:14][c:9]([N:7]([CH2:8][CH:10]2[C:3]([CH3:12])=[N+:2]([CH3:16])[C:4]([CH3:13])=[CH:11]2)[CH3:17])[cH:15][cH:6]1", "epd": [["LP-/Pi+", [2], [3, 2]], ["Pi-/Sigma+", [10, 3], [10, 8]], ["Pi-/LP+", [8, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:18][CH3:17])[c:19]1[cH:9][cH:7][cH:4][cH:8][cH:10]1.[cH:2]1[o:6][c:5]([O:11][Si:3]([CH3:13])([CH3:14])[CH3:15])[cH:12][cH:16]1>>[CH:1]([CH:2]1[O+:6]=[C:5]([O:11][Si:3]([CH3:13])([CH3:14])[CH3:15])[CH:12]=[CH:16]1)([O:18][CH3:17])[c:19]1[cH:9][cH:7][cH:4][cH:8][cH:10]1", "epd": [["LP-/Pi+", [6], [5, 6]], ["Pi-/Pi+", [12, 5], [16, 12]], ["Pi-/Sigma+", [2, 16], [2, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "Dichlorocarbene formation from chloroform", "rsmi": "[C:1]([Cl:2])([Cl:3])([Cl:4])[H:6].[OH-:5]>>[C:1]([Cl:2])[Cl:3].[Cl-:4].[OH:5][H:6]", "epd": [["Sigma-/LP+", [1, 4], [4]], ["Sigma-/LP+", [1, 6], [1]], ["LP-/Sigma+", [5], [5, 6]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:16][CH3:15])[c:18]1[cH:12][cH:10][cH:4][cH:11][cH:13]1.[S-:1][c:8]1[cH:2][cH:19][cH:17][c:14]([C:20]([F:5])([F:6])[F:7])[cH:9]1>>[S:1]([CH:3]([O:16][CH3:15])[c:18]1[cH:12][cH:10][cH:4][cH:11][cH:13]1)[c:8]1[cH:2][cH:19][cH:17][c:14]([C:20]([F:5])([F:6])[F:7])[cH:9]1", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Substitution at silicon by fluoride", "rsmi": "[Cl:1][Si:5]([CH3:2])([CH3:3])[CH3:4].[F-:6]>>[CH3:2][Si:5]([CH3:3])([CH3:4])[F:6].[Cl-:1]", "epd": [["LP-/Sigma+", [6], [5, 6]], ["Sigma-/LP+", [1, 5], [1]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:31][CH3:30])[c:33]1[cH:17][cH:15][cH:6][cH:16][cH:18]1.[N:1]1([c:4]2[c:26]([CH3:7])[cH:22][c:13]([CH3:11])[cH:25][c:29]2[CH3:10])[CH:21]=[CH:20][N:2]([c:5]2[c:27]([CH3:8])[cH:23][c:14]([CH3:12])[cH:24][c:28]2[CH3:9])[C:32]1=[CH2:19]>>[n+:1]1(-[c:4]2[c:26]([CH3:7])[cH:22][c:13]([CH3:11])[cH:25][c:29]2[CH3:10])[cH:21][cH:20][n:2](-[c:5]2[c:27]([CH3:8])[cH:23][c:14]([CH3:12])[cH:24][c:28]2[CH3:9])[c:32]1[CH2:19][CH:3]([O:31][CH3:30])[c:33]1[cH:17][cH:15][cH:6][cH:16][cH:18]1", "epd": [["LP-/Pi+", [1], [32, 1]], ["Pi-/Sigma+", [19, 32], [19, 3]], ["Pi-/LP+", [3, 31], [31]]]}
